US07713994B2
5-(Aminomethyl)-2-(2-methoxyethoxy)phenol
An amount of 3-hydroxy-4-(2-methoxyethoxy)benzaldehyde O-methyloxime (0.75 g, 3.33 mmol) in 10 mL of EtOH is added 1 mL of 12 N HCl and palladium on carbon. The reaction mixture is hydrogenated for 4 h. After removal of solid by filtration, solvent is evaporated to give yellow oil. Colorless solid is afforded after the oil is washed 5 times with EtOAc. Recrystallization from MeOH/EtOAc afforded 0.45 g (68.5% yield) of colorless solid: mp: 89-90° C.; MS (ESI) m/z 198.1 (M+H)+1

reactant | 3-hydroxy-4-(2-methoxyethoxy)benzaldehyde O-methyloxime | 3.33 mmol, 0.75 g | CON=CC1=CC(=C(C=C1)OCCOC)O | C11H15NO4
reactant | HCl | 12 N, 1 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-(Aminomethyl)-2-(2-methoxyethoxy)phenol | 0.45 g, 68.5% yield | NCC=1C=CC(=C(C1)O)OCCOC | C10H15NO3
